US05750524
Step 7: Ethyl [2-(phenylsulfonylaminomethyl)indane-5-oxy]acetate
Dissolved in 6 ml of methylene chloride were 1.77 g (5.00 mmol) of ethyl [2-(t-butoxycarbonylaminomethyl)indane-5-oxy]acetate, and 4 ml of trifluoroacetic acid were added under chilling with ice water, followed by stirring for 1 hour. The liquid reaction mixture was diluted with 40 ml of methylene chloride, and a solution of 8.37 g (60 mmol) of potassium carbonate in 40 ml of water was added, followed by vigorous stirring. After 10 minutes, 1.07 g (6.00 mmol) of phenyl-sulfonyl chloride were added, and the resultant mixture was stirred further for 1.5 hours. An organic layer separated was taken out, dried and then concentrated, and the residue was purified by column chromatography on silica gel (ethyl acetate: hexane=1:1), thereby obtaining 1.68 g of a colorless oily substance. Yield: 88%.

reactant | ethyl [2-(t-butoxycarbonylaminomethyl)indane-5-oxy]acetate | 5.00 mmol, 1.77 g | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2C1)OCC(=O)OCC | C19H27NO5
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 60 mmol, 8.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl-sulfonyl chloride | 6.00 mmol, 1.07 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | Ethyl [2-(phenylsulfonylaminomethyl)indane-5-oxy]acetate | Yield: 88% | C1(=CC=CC=C1)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)OCC(=O)OCC | C20H23NO5S
